US08497360B2
(R or S)-1-(4-Iodo-2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate: (RS)-1-(4-Iodo-2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate (2.07 g) was dissolved in boiling methanol (100 mL) and left at room temperature for two days. Crystals formed were filtered to yield pure single diastereomer (R or S)-1-(4-iodo-2-nitrophenyl)-2-methyl-1-propyl (1S)-camphanate (0.409 g, 39%). The absolute configuration of the single diastereomer camphanate is not determined. 1H NMR (400 MHz, CDCl3): δ 8.23 (d, 1 H, J=2.0 Hz, Ph-H), 7.89 (dd, 2 H, J=2.0 and 8.4 Hz, Ph-H), 7.30 (d, 1 H, J=8.4 Hz, Ph-H), 6.56 (s, 1 H, Ph-CH), 2.42 (m, 1H), 2.07 (m, 1H), 1.94 (m, 1H), 1.73 (m, 1 H), 1.11, 1.04 and 0.87 (3 s, 9 H, CH3 3), 0.95 (s, 9 H, (CH3)3C).

reactant | 1-(4-Iodo-2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate | [C@]12(C(CC(CC1)C2(C)C)C(=O)OC(C(C)(C)C)C2=C(C=C(C=C2)I)[N+](=O)[O-])C | C22H30INO4
reactant | (RS)-1-(4-Iodo-2-nitrophenyl)-2,2-dimethyl-1-propyl (1S)-camphanate | 2.07 g | [C@]12(C(CC(CC1)C2(C)C)C(=O)OC(C(C)(C)C)C2=C(C=C(C=C2)I)[N+](=O)[O-])C | C22H30INO4
solvent | methanol | 100 mL | CO | CH4O
product | 1-(4-iodo-2-nitrophenyl)-2-methyl-1-propyl (1S)-camphanate | 0.409 g, 39% | [C@]12(C(CC(CC1)C2(C)C)C(=O)OC(C(C)C)C2=C(C=C(C=C2)I)[N+](=O)[O-])C | C21H28INO4
